US04912102
(+)-cis-[3(2alpha or 2beta)]-2,3-Dihydro-3-[[[3,4-dihydro-6-hydroxy-2-methyl-5,7-bis(1-methylethyl)-2H-1-benzopyran-2-yl]carbonyl]oxy]-5-[2-(dimethylamino)ethyl]-2-(4-methoxyphenyl)naphtho[1,2-b][1,4]thiazepin-4(5H)-one (Isomers "A" and "B")
To a solution of 1.4 g (0.0048 mol) of (±)-5,7-diisopropyl-6-hydroxy-2-methylchroman-2-carboxylic acid in 25 ml dry tetrahydrofuran was added 0.09 g (0.0055 mol) of 1,1'-carbonyldiimidazol. After stirring at room temperature for 30 minutes, 2.0 g (0.0047 mol) (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one and 20 mg of 4-dimethylaminopyridine were added. The reaction mixture was stirred at room temperature for 17 hours, concentrated to dryness and the residue was partitioned between ethyl acetate and dilute ammonium hydroxide. The combined ethyl acetate solutions were washed with brine, dried (MgSO4) and the solvent was removed under reduced pressure. The residue was dissolved in acetonitrile and chromatographed on 70 g silica gel. The column was eluted with 75 ml portions of acetonitrile. Fractions 5-8 were combined and the solvent removed to give 1.3 g (40%) of isomer "A" as an amorphous solid, [α]D25 -74.31° (C 1.03, MeOH).

reactant | (±)-5,7-diisopropyl-6-hydroxy-2-methylchroman-2-carboxylic acid | 0.0048 mol, 1.4 g | C(C)(C)C1=C2CCC(OC2=CC(=C1O)C(C)C)(C(=O)O)C | C17H24O4
reactant | 1,1'-carbonyldiimidazol | 0.0055 mol, 0.09 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one | 0.0047 mol, 2.0 g | O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(C)C)=O | C24H26N2O3S
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2,3-Dihydro-3-[[[3,4-dihydro-6-hydroxy-2-methyl-5,7-bis(1-methylethyl)-2H-1-benzopyran-2-yl]carbonyl]oxy]-5-[2-(dimethylamino)ethyl]-2-(4-methoxyphenyl)naphtho[1,2-b][1,4]thiazepin-4(5H)-one | OC=1C(=CC2=C(CCC(O2)(C)C(=O)OC2C(N(C3=C(SC2C2=CC=C(C=C2)OC)C2=CC=CC=C2C=C3)CCN(C)C)=O)C1C(C)C)C(C)C | C41H48N2O6S
